US04885027
(N-Cyclopropyl-3-Trifluoromethylbenzylsulfonamido)-Acetamide
0.26 Gram of sodium hydride is added portionwise to a solution containing 2.77 g of N-cyclopropyl-3-trifluoromethylbenzylsulfonamide in 50 ml of dimethylformamide over an ice bath. The mixture is stirred 15 minutes at 0° C. and then 0.0105 moles of bromoacetamide is added dropwise with cooling. The mixture is stirred overnight at room temperature. Water is then added. This will result in the formation of a precipitate and oil. Water is continued to be added until no further precipitate or oil is formed. The mixture is cooled over an ice bath and then filtered. The filter cake is dissolved in hot cyclohexane and then recrystallized affording the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | N-cyclopropyl-3-trifluoromethylbenzylsulfonamide | 2.77 g | C1(CC1)NS(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F | C11H12F3NO2S
reactant | bromoacetamide | 0.0105 moles | BrCC(=O)N | C2H4BrNO
reactant | Water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (N-Cyclopropyl-3-Trifluoromethylbenzylsulfonamido)-Acetamide | C1(CC1)N(S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)CC(=O)N | C13H15F3N2O3S
